US07750012B2
4-(4-Benzyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester:
To a solution of 1-Boc-piperazine (2.5 g, 13.1 mmol) and 4-iododiphenylmethane (4.0 g, 13.1 mmol) in toluene were added the following reagents: Pd2(dba)3 (0.36 g, 0.3 mmol), PtBu3 (0.7 g 3.0 mmol) and NaO-t-Bu (1.26 g, 13.1 mmol). The reaction mixture was stirred at ambient temperature overnight and then filtered. The filtrate was purified using silica gel chromatography (1% MeOH in CH2Cl2) to yield the title compound as a light tan oil (4.6 g, 99%): MS (ESI) m/z 353 (M+H); 1H NMR (400 MHz, CDCl3) δ 1.47 (s, 9H), 3.08 (t, J=5.2 Hz, 4H), 3.56 (s, J=5.2 Hz, 4H), 3.91 (s, 2H), 6.85 (dd, J=2, 6.8 Hz, 2H), 7.09 (dd, J=2, 6.4 Hz, 2H), 7.16-7.19 (m, 3H), 7.25-7.29 (m, 2H).

reactant | 1-Boc-piperazine | 13.1 mmol, 2.5 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 4-iododiphenylmethane | 13.1 mmol, 4.0 g | C1=CC=C(C=C1)CC2=CC=C(C=C2)I | C13H11I
reactant | PtBu3 | 3.0 mmol, 0.7 g | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | NaO-t-Bu | 13.1 mmol, 1.26 g | O([Na])C(C)(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.3 mmol, 0.36 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(4-Benzyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 4.6 g, 99% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)CC1=CC=CC=C1 | C22H28N2O2
